US09315521B2
To a solution of (3,5-dimethylpyridin-4-yl)methanol (2.55 g, 18.6 mmol) in anhydrous dichloromethane (130 mL) was added tribromophosphane (2.0 mL, 21.1 mmol). The mixture was stirred at room temperature for 5 hours. Dichloromethane was evaporated. The residue was dried in vacuo, affording 4-(bromomethyl)-3,5-dimethylpyridine. The crude product was used without further purification.

reactant | (3,5-dimethylpyridin-4-yl)methanol | 18.6 mmol, 2.55 g | CC=1C=NC=C(C1CO)C | C8H11NO
reactant | tribromophosphane | 21.1 mmol, 2.0 mL | BrP(Br)Br | Br3P
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
product | 4-(bromomethyl)-3,5-dimethylpyridine | BrCC1=C(C=NC=C1C)C | C8H10BrN
